US05550240
Preparation of 4-chloro-6-(1,1-dimethylethylamino)-2-pyrrolidinopyrimidine
By reacting 2,4-dichloro-6-(1,1-dimethylethylamino)pyrimidine with pyrrolidine as described in Example 12, the title product is obtained in a yield of 73.8%, m.p.: 148°-150° C.

reactant | 2,4-dichloro-6-(1,1-dimethylethylamino)pyrimidine | ClC1=NC(=CC(=N1)Cl)NC(C)(C)C | C8H11Cl2N3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-chloro-6-(1,1-dimethylethylamino)-2-pyrrolidinopyrimidine | yield of 73.8% | ClC1=NC(=NC(=C1)NC(C)(C)C)N1CCCC1 | C12H19ClN4
